US07863450B2
a solution of 1M lithium aluminium hydride (12.2 ml, 12.2 mmol) in tetrahydrofuran is added to a cold (−20° C.) suspension of 2-amino-4-pyrrolidin-1-ylbutanoic acid (0.994 g, 4.05 mmol) in tetrahydrofuran (20 ml). The mixture is left to warm to 22° C. and is then heated for one hour at 60° C. The mixture is then cooled to 0° C. and is carefully quenched by the successive addition of water, 1 N aqueous sodium hydroxide and water. After one hour stirring at 0° C., the suspension is filtered and the solid is washed with ethyl acetate. The liquid phase is concentrated in vacuo to yield 318 mg of 2-amino-4-pyrrolidin-1-ylbutan-1-ol ax35 as a yellow oil.

reactant | lithium aluminium hydride | 12.2 mmol, 1M, 12.2 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-4-pyrrolidin-1-ylbutanoic acid | 4.05 mmol, 0.994 g | NC(C(=O)O)CCN1CCCC1 | C8H16N2O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-amino-4-pyrrolidin-1-ylbutan-1-ol | 318 mg, Yield: 65.5% | NC(CO)CCN1CCCC1 | C8H18N2O
